US09119868B2
Methyl 2-(4-fluorophenyl)-6-nitro-5-{[(trifluoromethyl)sulfonyl]oxy}-1-benzofuran-3-carboxylate (7.12 g, 15.37 mmol), cyclopropylboronic acid (2.19 g, 25.5 mmol), potassium fluoride (3.26 g, 56.1 mmol), sodium bromide (1.75 g, 17.01 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.85 g, 0.736 mmol) were stirred together under nitrogen in a mixture of toluene (90 mL) and water (2.25 mL) and heated at 100° C. for 18 hours. The reaction mixture was cooled, diluted with ethyl acetate and washed with water. The organic phase was separated, dried by hydrophobic filter tube and evaporated under vacuum. The residue was purified by flash chromatography, eluting over silica gel with a gradient of 0-5% ethyl acetate in cyclohexane. Product containing fractions were evaporated under vacuum to give the methyl 5-cyclopropyl-2-(4-fluorophenyl)-6-nitro-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=728 (2M+NH4)+.

reactant | Methyl 2-(4-fluorophenyl)-6-nitro-5-{[(trifluoromethyl)sulfonyl]oxy}-1-benzofuran-3-carboxylate | 15.37 mmol, 7.12 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C17H9F4NO8S
reactant | cyclopropylboronic acid | 25.5 mmol, 2.19 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium fluoride | 56.1 mmol, 3.26 g | [F-].[K+]
reactant | sodium bromide | 17.01 mmol, 1.75 g | [Br-].[Na+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.25 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.736 mmol, 0.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-cyclopropyl-2-(4-fluorophenyl)-6-nitro-1-benzofuran-3-carboxylate | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OC)C1)[N+](=O)[O-] | C19H14FNO5
